=========================================================================================================

[FMMT413]
*ZETEX FMMT413 Spice Model v1.0 Last Revised 15/10/04
    *
    .SUBCKT  FMMT413 16 15 14
    *Pins_____________C__B__E
    Q_Q1          9  8  7 QMOD_1
    R_R1          5  6  100  
    R_R2          5  4  100
    R_R3          12  3  100  
    R_R4          3  1  500  
    R_R5          10  2  2k  
    R_R6          10  11  1.5  
    D_D1          10  5 DZ20
    D_D2          4  2 DZ500
    D_D3          10  3 DZ200
    D_D4          1  2 DZ500
    D_D5          7  9 DZ300
    C_C1          10  2  20p  
    S_S1         13  11  2  10  SMOD1 
    S_S2          9  13  2  10  SMOD2 
    S_S3          8  10  2  10  SMOD3 
    V_H1          7  10  0
    H1 6 10  V_H1 50 
    E1 12 10 11 10 10
    L_L1          9  16  1nH  
    L_L2          15  8  2nH  
    L_L3          10  14  2nH  
    .Model QMOD_1 NPN IS =1.8E-14 ISE=5.0E-14 NF =.9955 NE =1.46 
    +BF =400 BR =35.5 IKF=.14 IKR=.03 ISC=1.72E-13 NC =1.27 NR =1.005
    +RB =.56 RE =.6 RC =.25 VAF=80 VAR=12.5 CJE=13E-12 CJC=4E-12 
    +VJC=.54 MJC=.33 TF =.64E-9 TR =50.72E-9
    .Model DZ20 D Is=1E-15  Bv=20 Ibv=100u
    .Model DZ200 D Is=1E-15  Bv=200 Ibv=100u
    .Model DZ300 D Is=1E-15 Rs=0.1 Bv=300 Ibv=100u
    .Model DZ500 D Is=1E-15 N=10 Bv=500 Ibv=100u
    .Model SMOD1 VSWITCH Roff=1e10 Ron=0.05 Voff=4.3 Von=4.6
    .Model SMOD2 VSWITCH Roff=1e3 Ron=.5 Voff=4.5 Von=9
    .Model SMOD3 VSWITCH Roff=1e10 Ron=0.1 Voff=20 Von=25
    .ENDS FMMT413
    *
    *$
    *

=========================================================================================================

[FMMT415]
*ZETEX FMMT415 Spice Model v1.0 Last Revised 14/01/03
    *
    .SUBCKT FMMT415 16 15 14
    *Pins______________C__B__E
    Q_Q1          9  8  7 QMOD_1
    R_R1          5  6  100  
    R_R2          5  4  100
    R_R3          12  3  100  
    R_R4          3  1  500  
    R_R5          10  2  2k  
    R_R6          10  11  2
    D_D1          10  5 DZ20
    D_D2          4  2 DZ500
    D_D3          10  3 DZ200
    D_D4          1  2 DZ500
    D_D5          7  9 DZ300
    C_C1          10  2  20p  
    S_S1         13  11  2  10  SMOD1 
    S_S2          9  13  2  10  SMOD2 
    S_S3          8  10  2  10  SMOD3 
    V_H1          7  10  0
    H1 6 10  V_H1 50 
    E1 12 10 11 10 10
    L_L1          9  16  1nH  
    L_L2          15  8  2nH  
    L_L3          10  14  2nH  
    .Model QMOD_1 NPN IS =3E-14 NF =1 BF =110 IKF=0.4
    +VAF=1900 ISE=1E-12 NE =1.6
    +NR =1 BR =7 IKR=0.2 VAR=75 ISC=1e-10 NC =1.9
    +RB =0.4 RE =0.1 RC =0.1
    +CJC=10.9E-12 MJC=0.347 VJC=0.476 CJE=82.6E-12
    +TF =1.3E-9 TR =2.3e-7
    .Model DZ20 D Is=1E-15  Bv=20 Ibv=100u
    .Model DZ200 D Is=1E-15  Bv=200 Ibv=100u
    .Model DZ300 D Is=1E-15 Rs=0.1 Bv=300 Ibv=100u
    .Model DZ500 D Is=1E-15 N=10 Bv=500 Ibv=100u
    .Model SMOD1 VSWITCH Roff=1e10 Ron=0.1 Voff=4.3 Von=4.6
    .Model SMOD2 VSWITCH Roff=1e3 Ron=1.0 Voff=4.5 Von=9
    .Model SMOD3 VSWITCH Roff=1e10 Ron=0.1 Voff=20 Von=25
    .ENDS FMMT415
    *
    *$
    *

=========================================================================================================

[FMMT417]
*ZETEX FMMT417 Spice Model v2.0 Last Revised 23/03/07
    *
    .SUBCKT FMMT417 16 15 14
    *Pins______________C__B__E
    Q_Q1          9  8  7 QMOD_1
    R_R1          5  6  100  
    R_R2          5  4  100
    R_R3          12  3  100  
    R_R4          3  1  500  
    R_R5          10  2  2k  
    R_R6          10  11  2
    D_D1          10  5 DZ20
    D_D2          4  2 DZ500
    D_D3          10  3 DZ200
    D_D4          1  2 DZ500
    D_D5          7  9 DZ350
    C_C1          10  2  20p  
    S_S1         13  11  2  10  SMOD1 
    S_S2          9  13  2  10  SMOD2 
    S_S3          8  10  2  10  SMOD3 
    V_H1          7  10  0
    H1 6 10  V_H1 50 
    E1 12 10 11 10 10
    L_L1          9  16  1nH  
    L_L2          15  8  2nH  
    L_L3          10  14  2nH  
    .model QMOD_1 NPN IS =3E-14 NF =1 BF =110 IKF=0.4
    +VAF=1900 ISE=1E-12 NE =1.6
    +NR =1 BR =7 IKR=0.2 VAR=75 ISC=1e-10 NC =1.9
    +RB =0.4 RE =0.1 RC =0.1
    +CJC=10.9E-12 MJC=0.347 VJC=0.476 CJE=82.6E-12
    +TF =1.3E-9 TR =2.3e-7
    .model DZ20 D Is=1E-15  Bv=20 Ibv=100u
    .model DZ200 D Is=1E-15  Bv=200 Ibv=100u
    .model DZ350 D Is=1E-15 Rs=0.1 Bv=350 Ibv=100u
    .model DZ500 D Is=1E-15 N=10 Bv=500 Ibv=100u
    .model SMOD1 VSWITCH Roff=1e10 Ron=0.1 Voff=4.3 Von=4.6
    .model SMOD2 VSWITCH Roff=1e3 Ron=1.0 Voff=4.5 Von=9
    .model SMOD3 VSWITCH Roff=1e10 Ron=0.1 Voff=20 Von=25
    .ENDS FMMT417
    *
    *$
    *

=========================================================================================================

[ZTX415]
*ZETEX ZTX415 Spice Model v1.0 Last Revised 14/01/03
    *
    .SUBCKT ZTX415 16 15 14
    *Pins______________C__B__E
    Q_Q1          9  8  7 QMOD_1
    R_R1          5  6  100  
    R_R2          5  4  100
    R_R3          12  3  100  
    R_R4          3  1  500  
    R_R5          10  2  2k  
    R_R6          10  11  2
    D_D1          10  5 DZ20
    D_D2          4  2 DZ500
    D_D3          10  3 DZ200
    D_D4          1  2 DZ500
    D_D5          7  9 DZ300
    C_C1          10  2  20p  
    S_S1         13  11  2  10  SMOD1 
    S_S2          9  13  2  10  SMOD2 
    S_S3          8  10  2  10  SMOD3 
    V_H1          7  10  0
    H1 6 10  V_H1 50 
    E1 12 10 11 10 10
    L_L1          9  16  1nH  
    L_L2          15  8  2nH  
    L_L3          10  14  2nH  
    .Model QMOD_1 NPN IS =3E-14 NF =1 BF =110 IKF=0.4
    +VAF=1900 ISE=1E-12 NE =1.6
    +NR =1 BR =7 IKR=0.2 VAR=75 ISC=1e-10 NC =1.9
    +RB =0.4 RE =0.1 RC =0.1
    +CJC=10.9E-12 MJC=0.347 VJC=0.476 CJE=82.6E-12
    +TF =1.3E-9 TR =2.3e-7
    .Model DZ20 D Is=1E-15  Bv=20 Ibv=100u
    .Model DZ200 D Is=1E-15  Bv=200 Ibv=100u
    .Model DZ300 D Is=1E-15 Rs=0.1 Bv=300 Ibv=100u
    .Model DZ500 D Is=1E-15 N=10 Bv=500 Ibv=100u
    .Model SMOD1 VSWITCH Roff=1e10 Ron=0.1 Voff=4.3 Von=4.6
    .Model SMOD2 VSWITCH Roff=1e3 Ron=1.0 Voff=4.5 Von=9
    .Model SMOD3 VSWITCH Roff=1e10 Ron=0.1 Voff=20 Von=25
    .ENDS ZTX415
    *
    *$
    *

=========================================================================================================